US07135475B2
A mixture of [1,2,3]thiadiazole-4-carboxylic acid (29 mg, 0.30 mmol) in dichloromethane (6 mL) at 25° C. was treated with triphenylphosphine-polystyrene 100–200 mesh (372 mg, 0.46 mmol). This mixture was cooled to 0° C. and then treated with N-chlorosuccinimide (49 mg, 0.37 mmol). This mixture was stirred at 0° C. for 15 min and at 25° C. for 15 min. At this time, the reaction was treated with 3-cyclopropylmethyl-1-(2-fluoro-benzyl)-8-(4-methylamino-benzyl)-3,7-dihydro-purine-2,6-dione (55 mg, 0.12mmol) and triethylamine (96 μL, 0.69 mmol). The reaction was then stirred at 25° C. for 3 days. At this time, the reaction was filtered to remove solids and rinsed with dichloromethane. The filtrate was washed with a saturated aqueous sodium bicarbonate solution and a saturated aqueous sodium chloride solution. The organics were dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–400 mesh, 1:99 methanol/dichloromethane) afforded [1,2,3]thiadiazole-4-carboxylic acid {4-[3-cyclopropylmethyl-1-(2-fluoro-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-methyl-amide (17 mg, 24.7%): LR-MS for C27H24FN7O3S (M+H)+ at m/z=546.

reactant | [1,2,3]thiadiazole-4-carboxylic acid | 0.30 mmol, 29 mg | S1N=NC(=C1)C(=O)O | C3H2N2O2S
reactant | N-chlorosuccinimide | 0.37 mmol, 49 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 3-cyclopropylmethyl-1-(2-fluoro-benzyl)-8-(4-methylamino-benzyl)-3,7-dihydro-purine-2,6-dione | 0.12mmol, 55 mg | C1(CC1)CN1C(N(C(C=2NC(=NC12)CC1=CC=C(C=C1)NC)=O)CC1=C(C=CC=C1)F)=O | C24H24FN5O2
reactant | triethylamine | 0.69 mmol, 96 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | [1,2,3]thiadiazole-4-carboxylic acid {4-[3-cyclopropylmethyl-1-(2-fluoro-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-methyl-amide | 17 mg, 24.7% | C1(CC1)CN1C(N(C(C=2NC(=NC12)CC1=CC=C(C=C1)N(C(=O)C=1N=NSC1)C)=O)CC1=C(C=CC=C1)F)=O | C27H24FN7O3S
